US07687491B2
(21c) Methyl 1-[(4-ethyl-5-{5-[4-(2-methoxyphenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1f) using (4-ethyl-5-{5-[4-(2-methoxyphenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol (0.14 g, 0.35 mmol) that was obtained in Example 21 (21b), carbon tetrabromide (0.17 g, 0.53 mmol), triphenylphosphine (0.14 g, 0.53 mmol), methyl 3-azetidinecarboxylate hydrochloride (80 mg, 0.53 mmol), and N,N-diisopropylethylamine (0.18 mL, 1.1 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (2:5 to 1:2) as the eluent to afford the title compound (89 mg) in a yield of 50% as a colourless oily product.

reactant | (4-ethyl-5-{5-[4-(2-methoxyphenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol | 0.35 mmol, 0.14 g | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=C(C=CC=C1)OC)CO | C22H20N2O4S
reactant | carbon tetrabromide | 0.53 mmol, 0.17 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.53 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.53 mmol, 80 mg | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.1 mmol, 0.18 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-[(4-ethyl-5-{5-[4-(2-methoxyphenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=C(C=CC=C1)OC)CN1CC(C1)C(=O)OC | C27H27N3O5S
